US04698220
Sodium Dichromate Procedure
A sample of commercially available sodium dichromate dihydrate 85 percent liquor was stirred in a 1 liter flask while adding 246.5 g 96 percent H2SO4 (236.6 g 100 percent, 1.21 equiv.). External cooling was provided as needed to keep the temperature below 50° C. Antimony trioxide stock solution (6.88 g. 0.40 g 100 percent Sb2O 3 , 0.065 percent based on weight of 100 percent Na2Cr2O7 ), prepared as described in Example 1, was added along with 2 g (0.32 percent based on weight of 100 percent Na2Cr2O7 ) magnetite. Stirring was continued and octanol (12.89 g, 4.76 equiv.) was added over 30 minutes. Cooling was provided as needed to maintain the temperature between 60° and 70° C. After addition of all the octanol, the temperature was allowed to increase to 105° C. (reflux). Stirring at reflux was continued overnight, although based on CO2 release and viscosity the reduction had reached the partial and point of ca. 60 percent within the first hour. The finished paste was not carried through the synthesis cycle. The reactivity of the system toward the reducing agent and the final physical properties of the paste were sufficient confirmation that the overall paste process was the same as with reductions involving the use of CrO3 .

reactant | sodium dichromate dihydrate | O.O.[Cr](=O)(=O)([O-])O[Cr](=O)(=O)[O-].[Na+].[Na+]
reactant | H2SO4 | 246.5 g, 1.21 equiv. | OS(=O)(=O)O | H2O4S
reactant | Antimony trioxide | O=[Sb]O[Sb]=O
solvent | octanol | C(CCCCCCC)O | C8H18O
solvent | octanol | 12.89 g, 4.76 equiv. | C(CCCCCCC)O | C8H18O
product | Sodium Dichromate | [Cr](=O)(=O)([O-])O[Cr](=O)(=O)[O-].[Na+].[Na+] | InChI=1S/2Cr.2Na.7O/q;;2*+1;;;;;;2*-1
